US06835732B2
N-(4-Methoxy-7-thiophen-2-yl-benzothiazol-2-yl)-2-methyl-isonicotinamide
0.21 g of 4-methoxy-7-thiophen-2-yl-benzothiazol-2-yl-amine (0.0008 Mol) together with 0.27 ml triethylamine (0.002 Mol), 0.01 g of DMAP and 0.20 g isonicotinic acid chloride (0.001 Mol) were heated to reflux for 20 hrs. in dioxane (10 ml). After cooling to room temperature water (20 ml) and sat. NaHCO3 (15 ml) were added. A precipitation formed, which was filtered, washed with water and dried. This crude product was subjected to column chromatography (silicagel, ethyl acetate) to yield the title compound as a yellow solid (58%); F.p.: 203-211° C. (dec.).

reactant | 4-methoxy-7-thiophen-2-yl-benzothiazol-2-yl-amine | 0.0008 Mol, 0.21 g | COC1=CC=C(C2=C1N=C(S2)N)C=2SC=CC2 | C12H10N2OS2
reactant | triethylamine | 0.002 Mol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | isonicotinic acid chloride | 0.001 Mol, 0.20 g | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
reactant | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 0.01 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | N-(4-Methoxy-7-thiophen-2-yl-benzothiazol-2-yl)-2-methyl-isonicotinamide | 58% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)C)=O)C=2SC=CC2 | C19H15N3O2S2
